* Behavioural ADC for simulation TB driving.
* Takes in a voltage (vin) in the range [0,1.2] and outputs
* 8-bit digital 1.2V logic levels. Also applies finite
* edge rates using RC filtering.
.subckt behavioural_adc_8b vin d0 d1 d2 d3 d4 d5 d6 d7
.param VREF=1.2
.param ROUT=100
.param COUT=5p
* Normalised input, clamped to 0 <= x < 1
* For each bit:
*     bit = floor(x*K) - 2*floor(x*K/2)
* where K = 256,128,...,2
B0 q0 0 V = VREF*(floor(min(max(V(vin)/VREF,0),0.999999)*256) - 2*floor(min(max(V(vin)/VREF,0),0.999999)*128))
B1 q1 0 V = VREF*(floor(min(max(V(vin)/VREF,0),0.999999)*128) - 2*floor(min(max(V(vin)/VREF,0),0.999999)*64))
B2 q2 0 V = VREF*(floor(min(max(V(vin)/VREF,0),0.999999)*64) - 2*floor(min(max(V(vin)/VREF,0),0.999999)*32))
B3 q3 0 V = VREF*(floor(min(max(V(vin)/VREF,0),0.999999)*32) - 2*floor(min(max(V(vin)/VREF,0),0.999999)*16))
B4 q4 0 V = VREF*(floor(min(max(V(vin)/VREF,0),0.999999)*16) - 2*floor(min(max(V(vin)/VREF,0),0.999999)*8))
B5 q5 0 V = VREF*(floor(min(max(V(vin)/VREF,0),0.999999)*8) - 2*floor(min(max(V(vin)/VREF,0),0.999999)*4))
B6 q6 0 V = VREF*(floor(min(max(V(vin)/VREF,0),0.999999)*4) - 2*floor(min(max(V(vin)/VREF,0),0.999999)*2))
B7 q7 0 V = VREF*(floor(min(max(V(vin)/VREF,0),0.999999)*2) - 2*floor(min(max(V(vin)/VREF,0),0.999999)))
* Finite output impedance / edge rate
R0 q0 d0 {ROUT}
R1 q1 d1 {ROUT}
R2 q2 d2 {ROUT}
R3 q3 d3 {ROUT}
R4 q4 d4 {ROUT}
R5 q5 d5 {ROUT}
R6 q6 d6 {ROUT}
R7 q7 d7 {ROUT}
C0 d0 0 {COUT}
C1 d1 0 {COUT}
C2 d2 0 {COUT}
C3 d3 0 {COUT}
C4 d4 0 {COUT}
C5 d5 0 {COUT}
C6 d6 0 {COUT}
C7 d7 0 {COUT}
.ends ideal_adc8

